US06777560B2
(3R,5R)-7-[2-(4-fluorophenyl)-5-isopropyl-3-phenyl-4-phenylcarbamoyl-pyrrol-1-yl]-3,5-dihydroxy-heptanoic acid (IV)
The crude (3R,5R)-7-[2-(4-fluorophenyl)-5-isopropyl-3-phenyl-4-phenylcarbamoyl-pyrrol-1-yl]-3,5dihydroxy-heptanoic acid, t-butyl ester (VI-A) was converted to the acid using an excess of KOH/MeOH/Water, followed by lactonization in toluene with catalytic HCl. Chiral HPLC analysis (ChiralCel OF; 1 ml/min; 60° C.; 254 nm; 20% IPA:Hexanes) tR(3R,5R)=26.97 min./tR(3S,5S)=33.8 min. tR(3R,5S)=38.1 min./tR(3S,5R)=61.0 min.) indicated an enantiomeric excess of the syn isomer of 85%, favoring the (R,R) configuration.

reactant | (3R,5R)-7-[2-(4-fluorophenyl)-5-isopropyl-3-phenyl-4-phenylcarbamoyl-pyrrol-1-yl]-3,5dihydroxy-heptanoic acid, t-butyl ester | FC1=CC=C(C=C1)C=1N(C(=C(C1C1=CC=CC=C1)C(NC1=CC=CC=C1)=O)C(C)C)CC[C@H](C[C@H](CC(=O)OC(C)(C)C)O)O | C37H43FN2O5
reactant | KOH MeOH Water | [OH-].[K+].CO.O
reactant | HCl | Cl | ClH
reactant | IPA | CC(C)O | C3H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (3R,5R)-7-[2-(4-fluorophenyl)-5-isopropyl-3-phenyl-4-phenylcarbamoyl-pyrrol-1-yl]-3,5-dihydroxy-heptanoic acid | FC1=CC=C(C=C1)C=1N(C(=C(C1C1=CC=CC=C1)C(NC1=CC=CC=C1)=O)C(C)C)CC[C@H](C[C@H](CC(=O)O)O)O | C33H35FN2O5
